US07176217B2
To a solution of ethyl (1R, 3R, 4S)-2-[(S)-1-phenylethyl]-2-azabicyclo[2.2.2]oct-5-ene-3-carboxylate (1.20 g, 4.17 mmol) in ethyl acetate (52 ml) was added 20 wt % Pd(OH)2 (0.878 g), and the mixture was stirred under a hydrogen atmosphere at 45° C. for 14 hours. After a filtration through Celite, the solvent was concentrated. The residue was purified by silica gel column chromatography (1%–5% methanol/chloroform), to give ethyl (3R)-2-azabicyclo [2.2.2]octane-3-carboxylate (0.362 g, 47%).

reactant | ethyl (1R, 3R, 4S)-2-[(S)-1-phenylethyl]-2-azabicyclo[2.2.2]oct-5-ene-3-carboxylate | 4.17 mmol, 1.20 g | C1(=CC=CC=C1)[C@H](C)N1[C@H]2C=C[C@@H]([C@@H]1C(=O)OCC)CC2 | C18H23NO2
solvent | ethyl acetate | 52 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2 | 0.878 g | [OH-].[OH-].[Pd+2]
product | ethyl (3R)-2-azabicyclo [2.2.2]octane-3-carboxylate | 0.362 g, 47% | C12N[C@H](C(CC1)CC2)C(=O)OCC | C10H17NO2
